US06727264B1
N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-1-PHENYL-3-PROPYL-1H-PYRAZOLE-4-CARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 1-phenyl-3-propyl-1H-pyrazole-4-carbonyl chloride: ESMS m/e: 592.2 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | 1-phenyl-3-propyl-1H-pyrazole-4-carbonyl chloride | C1(=CC=CC=C1)N1N=C(C(=C1)C(=O)Cl)CCC | C13H13ClN2O
product | N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-1-PHENYL-3-PROPYL-1H-PYRAZOLE-4-CARBOXAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CC[C@@H](C1=CC=CC=C1)NC(=O)C=1C(=NN(C1)C1=CC=CC=C1)CCC | C37H45N5O2
